US09422271B2
To the solution of dimethylamine (284 mg, 6.3 mmol, 1.5 equiv.) and DIPEA (1 mL) in DCM (15 mL) was added dropwise a solution of 4-nitrobenzene-1-sulfonyl chloride (800 mg, 4.2 mmol, 1.0 equiv.) in DCM (5 mL). The reaction mixture was stirred at room temperature for 2 h. Then, the reaction mixture was washed with water and brine. The organic layers was dried (Na2SO4) and concentrated to get the residue, which was washed with isopropyl ether to afford compound N,N-dimethyl-4-nitrobenzenesulfonamide (879 mg, 91%).

reactant | dimethylamine | 6.3 mmol, 284 mg, 1.5 equiv. | CNC | C2H7N
reactant | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrobenzene-1-sulfonyl chloride | 4.2 mmol, 800 mg, 1.0 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-4-nitrobenzenesulfonamide | 879 mg, 91% | CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10N2O4S
